US07786044B2
32. Preparation of 5-Acetyl-6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester (Compound 32)
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-ethoxy-vinyl)pyrimidine-4-carboxylic acid methyl ester (0.235 g, 0.616 mmol) was dissolved in THF (5 mL) and 2N HCl (0.616 mL, 1.231 mmol) and stirred at ambient temperature for 3 h. The reaction mixture was concentrated, triturated with water, and filtered. The product was washed with methanol and dried under vacuum to yield the title compound (0.205 g, 94% yield): 1H NMR (DMSO-d6) δ 7.7 (br s, 2H), 7.63 (dd, 1H), 7.42 (dd, 1H), 3.92 (s, 3H), 3.85 (s, 3H), 2.46 (s, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-ethoxy-vinyl)pyrimidine-4-carboxylic acid methyl ester | 0.616 mmol, 0.235 g | COC(=O)C1=NC(=NC(=C1C(=C)OCC)N)C1=C(C(=C(C=C1)Cl)OC)F | C17H17ClFN3O4
reactant | HCl | 1.231 mmol, 2N, 0.616 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Acetyl-6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester | 0.205 g, 94% yield | COC(=O)C1=NC(=NC(=C1C(C)=O)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H13ClFN3O4
